US07553854B2
To the solution of (S)—N-methyl-4-(2-(piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide hydrochloride (12.5 mg, 30 μmol) and DIPEA (28 μL, 160 μmol) in 300 μL of NMP was added methanesulfonic anhydride (17 mg, 100 μmol). The reaction solution was stirred at 105° C. for 46 hours. The crude reaction solution was purified on prep HPLC and evaporated in vacuo to give (S)—N-methyl-4-(2-(1-(methylsulfonyl)piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide (4.5 mg, 9.8 μmol) as white powder. ES/MS m/z 462.1 (MH+).

reactant | (S)—N-methyl-4-(2-(piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide hydrochloride | 30 μmol, 12.5 mg | Cl.CNC(C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CNCCC2)C=C1)=O
reactant | DIPEA | 160 μmol, 28 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonic anhydride | 100 μmol, 17 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | NMP | 300 μL | CN1CCCC1=O | C5H9NO
product | (S)—N-methyl-4-(2-(1-(methylsulfonyl)piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide | 9.8 μmol, 4.5 mg | CNC(C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CN(CCC2)S(=O)(=O)C)C=C1)=O | C20H23N5O4S2
